US06310102B1
N-(3-Bromophenyl)phthalimide
A stirring slurry of 3-bromoaniline (3.00 g, 17.44 mmol), phthalic anhydride (2.58 g, 17.44 mmol), and toluene (45 ml) was heated under reflux, using a Dean-Stark apparatus, at 140° C. (oil bath temperature) for 24 h. After cooling to ambient temperature, the solution was concentrated by rotary evaporation. The resulting off-white solid was purified by column chromatography on silica gel (150 g, Merck 70-230 mesh) eluting with CHCl3-acetone (9:1, v/v) to collect unreacted 3-bromoaniline (Rf 0.61) and phthalic anhydride (Rf 0.43). Elution with CHCl3-methanol (9:1, v/v) gave the product (Rf 0.38). Selected fractions containing the product were combined and concentrated by rotary evaporation to give 1.53 g of an off-white to light-beige solid. Impure fractions were combined and concentrated by rotary evaporation. The resulting white solid was dissolved in a mixture of CHCl3, acetone, and methanol and re-chromatographed on silica gel (150 g). Elution with CHCl3 removed impurities; the product was then eluted with CHCl3-acetone (4:1, v/v). Selected fractions were combined, concentrated by rotary evaporation, and vacuum dried for 16 h to give 1.41 g of an off-white to light-beige solid, mp 176-179° C., bringing the total yield to 2.94 g (55.8%).

reactant | 3-bromoaniline | 17.44 mmol, 3.00 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | phthalic anhydride | 17.44 mmol, 2.58 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Bromophenyl)phthalimide | BrC=1C=C(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H8BrNO2
